US07439231B2
N-Boc 3 Methylcarbazole
To a solution of 3-methylcarbazole (500 mg, 2.76 mmol) in toluene (7.5 mL), was added sodium hydroxide (5 g, 125 mmol) as a solution in water (15 mL) followed by tri n-butyl benzyl ammonium chloride (25 mg). The two-phase solution was stirred at about 0° C. and di t-butylcarbonate (1.25 g, 5.7 mmol) was added in one portion. The mixture was stirred for about 1 h at about 0° C., the toluene layer was separated and the aqueous layer was extracted with ethyl acetate (2×10 mL). The combined organic layers were washed with water (2×10 mL); dried (MgSO4) and concentrated under in vacuo to afford the crude product (725 mg, 96% yield). ES-MS (M+H)+ 282.0 (calc. 282.1).

reactant | 3-methylcarbazole | 2.76 mmol, 500 mg | CC=1C=CC=2NC3=CC=CC=C3C2C1 | C13H11N
reactant | sodium hydroxide | 125 mmol, 5 g | [OH-].[Na+]
reactant | di t-butylcarbonate | 5.7 mmol, 1.25 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | toluene | 7.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 15 mL | O | H2O
catalyst | tri n-butyl benzyl ammonium chloride | 25 mg | [Cl-].C(CCC)[N+](CC1=CC=CC=C1)(CCCC)CCCC
product | N-Boc 3 Methylcarbazole | 725 mg, 96% yield | C(=O)(OC(C)(C)C)N1C2=CC=CC=C2C=2C=C(C=CC12)C | C18H19NO2
